US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-2-carboxamide
The title compound was prepared as described in Example 34(d), starting from 4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-2-carboxylic acid (0.166 g, 0.997 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.2 g, 0.767 mmol). The product was purified with flash-chromatography. Yield 56.3%. 1H-NMR (400 MHz; DMSO-d6): δ 1.09 (d, 3H), 1.74-1.82 (m, 2H), 1.94-2.03 (m, 2H), 2.71-2.78 (m, 2H), 4.11 (t, 2H), 4.27 (dd, 1H), 4.36 (dd, 1H), 4.39-4.49 (m, 1H), 6.30 (s, 1H), 6.95 (d, 1H), 7.82 (d, 1H), 7.96-8.01 (m, 2H), 8.08-8.11 (m, 1H), 8.16 (d, 1H).

reactant | 4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-2-carboxylic acid | 0.997 mmol, 0.166 g | N1=C(C=C2N1CCCC2)C(=O)O | C8H10N2O2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 0.2 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-2-carboxamide | Yield 56.3% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NN2C(CCCC2)=C1 | C21H21ClN6O
